US05294718
To a solution of 200 mg of 6-(4-hydroxypiperidino)-3,4-dihydrocarbostyril in 2 ml of pyridine were added 92 mg of acetic anhydride and 10 mg of 4-dimethylaminopyridine. After stirring at room temperature for 40 hr, the reaction mixture was concentrated under a reduced pressure, and the resulting residue was purified by a silica gel column chromatography to give 226 mg of 6-(4-acetoxypiperidino)-3,4-dihydrocarbostyril.

reactant | 6-(4-hydroxypiperidino)-3,4-dihydrocarbostyril | 200 mg | OC1CCN(CC1)C=1C=C2CCC(NC2=CC1)=O | C14H18N2O2
reactant | acetic anhydride | 92 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-(4-acetoxypiperidino)-3,4-dihydrocarbostyril | 226 mg | C(C)(=O)OC1CCN(CC1)C=1C=C2CCC(NC2=CC1)=O | C16H20N2O3
